* Fully-differential parasitic-insensitive SC integrator with 1-bit DAC input.
* Topology per side (P side shown; N side mirrored):
*   phi1: Cs left<-input, Cs right<-VCM ; Cd left<- (VP if BIT=1 else VN), Cd right<-VCM
*   phi2: Cs left->VCM, Cs right->summing node INP ; Cd likewise into INP
*   Ci: cross-coupled integration cap OUTN->INP (negative feedback, PGA-style)
* The OTA is eeg_fd_ota_full2_nc (non-chopped, bias gen included).
.subckt eeg_sd_int INP_S INN_S VCM_REF BIT VP VN OUTP OUTN PH1 NPH1 PH2 NPH2 VDD18 VSS params: CS=4p CDAC=4p CI=4p VDDV=1.8
XOTA INP INN VCM_REF OUTP OUTN VDD18 VSS eeg_fd_ota_full2_nc
* ---- input sampling caps ----
CSP CSLP CSRP {CS}
CSN CSLN CSRN {CS}
* P1 switches: left->input, right->VCM
XS1A CSLP INP_S PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1B CSRP VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1C CSLN INN_S PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1D CSRN VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
* P2 switches: left->VCM, right->summing node
XS2A CSLP VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2B CSRP INP PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2C CSLN VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2D CSRN INN PH2 NPH2 VDD18 VSS eeg_tg_lowq
* ---- DAC caps ----
CDP CDLP CDRP {CDAC}
CDN CDLN CDRN {CDAC}
* P1: left plate to VP (BIT=1) or VN (BIT=0)
XDPA CDLP VN BIT1 NBIT1 VDD18 VSS eeg_tg_lowq
XDPB CDLP VP BIT0 NBIT0 VDD18 VSS eeg_tg_lowq
XDNA CDLN VN BIT0 NBIT0 VDD18 VSS eeg_tg_lowq
XDNB CDLN VP BIT1 NBIT1 VDD18 VSS eeg_tg_lowq
BBIT1 BIT1 0 V=v(BIT)
BBIT0 BIT0 0 V=v(VDD18)-v(BIT)
BNBIT1 NBIT1 0 V=v(VDD18)-v(BIT)
BNBIT0 NBIT0 0 V=v(BIT)
* P1 right plates to VCM; P2 dump into summing nodes
XDP1 CDRP VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XDP2 CDRP INP PH2 NPH2 VDD18 VSS eeg_tg_lowq
XDN1 CDRN VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XDN2 CDRN INN PH2 NPH2 VDD18 VSS eeg_tg_lowq
* DAC left plates to VCM during P2
XDP3 CDLP VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
XDN3 CDLN VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
* ---- integration caps (cross-coupled negative feedback) ----
CIP OUTN INP {CI}
CIN OUTP INN {CI}
* summing-node DC bias (pseudo-resistor model)
RBIASP INP VCM_REF 10G
RBIASN INN VCM_REF 10G
.ends
